US07253165B2
Synthesis of (R)-1-[4-(6-fluoro-1H-indazol-3-yl)-piperazin-1-yl]-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine in dimethylformamide and ethanol and 6-fluoro-3-piperazin-1-yl-1H-indazole (Table No.1, SM 4) in ethanol essentially as described above in Example 102. Purity by LC/MS=100%, [M+H]+=489.

reactant | (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine | O1[C@H](C1)COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C15H12N2O3
reactant | 6-fluoro-3-piperazin-1-yl-1H-indazole | FC1=CC=C2C(=NNC2=C1)N1CCNCC1 | C11H13FN4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[4-(6-fluoro-1H-indazol-3-yl)-piperazin-1-yl]-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)C[C@H](COC1=CC(=CC=C1)C1=NOC2=NC=CC=C21)O | C26H25FN6O3
